US07589232B2
Step b) Formation of (4-{[{4-[(4-butylphenyl)ethynyl]benzyl}(pent-4-ynoyl)amino]methyl}phenoxy)acetic acid
The titled compound was prepared following the procedure F using methyl (4-{[{4-[(4-butylphenyl)ethynyl]benzyl}(pent-4-ynoyl)amino]methyl}phenoxy)acetate and NaOH 1N in the presence of MeOH/THF as a yellow oil (87%). 1H NMR (DMSO-d6, 300 MHz) δ 7.49 (m, 4H), 7.25-7.11 (m, 6H), 6.87 (m, 2H), 4.65 (s, 1H), 4.64 (s, 1H), 4.54 (s, 1H), 4.50 (s, 1H), 4.46 (s, 1H), 4.44 (s, 1H) 2.77-2.42 (m, 7H), 1.55 (m, 2H), 1.30 (m, 2H), 0.89 (t, J=7.3 Hz, 3H). M− (ESI): 506.4; M+ (ESI): 508.4. HPLC, Rt: 5.05 min (Purity: 99.1%).

reactant | methyl (4-{[{4-[(4-butylphenyl)ethynyl]benzyl}(pent-4-ynoyl)amino]methyl}phenoxy)acetate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(CCC#C)=O)CC2=CC=C(OCC(=O)OC)C=C2)C=C1 | C34H35NO4
reactant | NaOH | 1N | [OH-].[Na+]
solvent | MeOH THF | CO.C1CCOC1
product | (4-{[{4-[(4-butylphenyl)ethynyl]benzyl}(pent-4-ynoyl)amino]methyl}phenoxy)acetic acid | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(CCC#C)=O)CC2=CC=C(OCC(=O)O)C=C2)C=C1 | C33H33NO4
